US05130322
2-methoxymethyl-2,3-dimethyl-3,4-epoxy-6-methoxycarbonylchroman
2-methoxymethyl-2-methyl-3,4-epoxy-6-carbamoylchroman and, from these epoxides with lH-2-pyridone, 4-hydroxy-1H-2-pyridone, 3-hydroxy-1,6-dihydro-3-pyridazinone (=3,6-pyridazindiol), 1-methyl-3-hydroxy-1,6-dihydro-3-pyridazinone, 2-pyrrolidinone or 1,3-cyclopentandione:

reactant | 2-methoxymethyl-2-methyl-3,4-epoxy-6-carbamoylchroman | COCC1(OC2=CC=C(C=C2C2C1O2)C(N)=O)C | C13H15NO4
reactant | lH-2-pyridone | N1C(C=CC=C1)=O | C5H5NO
reactant | 4-hydroxy-1H-2-pyridone | OC1=CC(NC=C1)=O | C5H5NO2
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
reactant | 1,3-cyclopentandione | C1(CC(CC1)=O)=O | C5H6O2
product | 2-methoxymethyl-2,3-dimethyl-3,4-epoxy-6-methoxycarbonylchroman | COCC1(OC2=CC=C(C=C2C2C1(O2)C)C(=O)OC)C | C15H18O5
